US09290451B2
a) 6-Cyclopropylmethoxy-5-(3-hydroxy-oxetan-3-yl)-pyridine-2-carboxylic acid
Under a nitrogen atmosphere, n-BuLi (3.23 mL, 5.6 mmol) was added dropwise to a solution of 5-bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 9 d, 1.1 g, 4.0 mmol) in THF (50 mL) at −78° C. and stirred for 1 h at this temperature. Then a solution of oxetan-3-one (CAN 6704-31-0, 0.73 g, 10 mmol) in THF (5 mL) was added at −78° C. The reaction mixture was stirred for 1 h at room temperature and quenched with aq. NH4Cl solution. The pH was adjusted to 2 with conc. HCl. The mixture was extracted with ethyl acetate (3×50 mL), the organic layers were combined, washed with brine (2×50 mL) and dried over Na2SO4. The solvent was removed under reduced pressure and the crude product was purified by chromatography over silica gel using petroleum ether/ethyl acetate=1/1 to give the title compound (0.13 g, 30.8%) as a yellow solid; MS (EI): m/e=266.1 [M+H]+.

reactant | n-BuLi | 5.6 mmol, 3.23 mL | [Li]CCCC
reactant | 5-bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | 4.0 mmol, 1.1 g | BrC=1C=CC(=NC1OCC1CC1)C(=O)O | C10H10BrNO3
reactant | oxetan-3-one | 10 mmol, 0.73 g | O1CC(C1)=O | C3H4O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-Cyclopropylmethoxy-5-(3-hydroxy-oxetan-3-yl)-pyridine-2-carboxylic acid | 0.13 g, 30.8% | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1(COC1)O | C13H15NO5
